US08097637B2
Step 2: rac (3-Hydroxy-cyclohexyl)-acetic acid methyl ester
(3-Oxo-cyclohexyl)-acetic acid methyl ester (240 mg, 1.39 mmol) was dissolved in 5 ml THF and 5 ml ethanol and cooled to 0-5° C. Sodium borohydride (79 mg, 2.09 mmol) was added and the reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was quenched with saturated NaHCO3-solution and extracted three times with ethyl acetate. The organic extracts were washed with brine, dried with sodium sulfate, filtered and evaporated. The crude product (240 mg, 100%) was obtained as a light yellow oil and used without any further purification for the next step.

reactant | (3-Oxo-cyclohexyl)-acetic acid methyl ester | 1.39 mmol, 240 mg | COC(CC1CC(CCC1)=O)=O | C9H14O3
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | Sodium borohydride | 2.09 mmol, 79 mg | [BH4-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | rac (3-Hydroxy-cyclohexyl)-acetic acid methyl ester | 240 mg, 100% | COC(CC1CC(CCC1)O)=O | C9H16O3
